* c:\users\aditya\esim-workspace\ca3240_ic_test\ca3240_ic_test.cir

.include CA3240_IC.sub
x1 net-_c1-pad1_ net-_c1-pad2_ net-_r3-pad2_ net-_x1-pad4_ net-_x1-pad5_ net-_c2-pad2_ net-_c2-pad1_ net-_r5-pad1_ CA3240_IC
v3 net-_x1-pad5_ gnd  dc 15
v1  vin1 gnd sine(0 1.1 50 0 0)
r3  vin1 net-_r3-pad2_ 1000k
r2  net-_c1-pad2_ net-_c1-pad1_ 100k
c1  net-_c1-pad1_ net-_c1-pad2_ 2000p
r1  net-_r1-pad1_ net-_c1-pad2_ 10k
r4  net-_r1-pad1_ net-_c2-pad1_ 10k
r6  net-_c2-pad2_ net-_c2-pad1_ 100k
c2  net-_c2-pad1_ net-_c2-pad2_ 2000p
r5  net-_r5-pad1_ vin2 1000k
v4  vin2 gnd sine(0 1 50 0 0)
v2 net-_x1-pad4_ gnd  dc -15
x2 vout net-_r10-pad2_ net-_r11-pad2_ net-_x2-pad4_ net-_x2-pad5_ ? ? ? CA3240_IC
v5 net-_x2-pad4_ gnd  dc -15
v6 net-_x2-pad5_ gnd  dc 15
r8  net-_r11-pad2_ net-_c1-pad1_ 100k
r7  net-_r10-pad2_ net-_c2-pad2_ 100k
r9  vout gnd 10k
* u1  vin1 plot_v1
* u2  vin2 plot_v1
* u3  vout plot_v1
r10  vout net-_r10-pad2_ 100k
r11  gnd net-_r11-pad2_ 100k
.tran 0.01e-03 40e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vin1)
plot v(vin2)
plot v(vout)
.endc
.end
